US07939528B2
5-{[3-Chloro-4-(1,3-dioxolan-2-yl)phenyl]oxy}-1H-benzimidazole (1.41 g) was dissolved in approximately 15 mL of acetone and heated at reflux over 3 days with 25 mg of p-tosic acid. An additional 50 mg of p-tosic acid was added and the reaction was heated at 80 degrees Centigrade for an additional 6 hours. The reaction was allowed to cool to room temperature, diluted with water and ethyl acetate, made basic with 10 N NaOH and extracted twice with ethyl acetate. The organic layer was washed with brine and 1N NaOH, dried over MgSO4 and concentrated. The residue was dissolved and stirred in neat trifluoroacetic acid overnight. The reaction was concentrated and purified by silica gel column chromatography (0-10% gradient of methanolic 2N NH3/CH2Cl2). The fractions were concentrated and the residue was purified by preparative HPLC to give 4-(1H-benzimidazol-5-yloxy)-2-chlorobenzaldehyde, which was ultimately used to prepare Examples Nos. 73 and 74.

reactant | 5-{[3-Chloro-4-(1,3-dioxolan-2-yl)phenyl]oxy}-1H-benzimidazole | 1.41 g | ClC=1C=C(C=CC1C1OCCO1)OC1=CC2=C(NC=N2)C=C1 | C16H13ClN2O3
reactant | NaOH | 10 N | [OH-].[Na+]
solvent | acetone | approximately 15 mL | CC(=O)C | C3H6O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(1H-benzimidazol-5-yloxy)-2-chlorobenzaldehyde | N1C=NC2=C1C=CC(=C2)OC2=CC(=C(C=O)C=C2)Cl | C14H9ClN2O2
